US08835648B2
2-(5-bromo-2-chlorophenyl)-1H-benzoimidazole
Method 2—Step a Into a one necked round bottomed flask equipped with a magnetic stirrer, 5-bromo-2-chlorobenzoic acid (70.0 g, 297.3 mmol), o-phenylenediamine (64.3 g, 594.6 mmol) and methansulfonic acid (140 mL) were placed and heated to 170° C. in order to melt the solids. The system was stirred 5 h at this temperature, then left to come rt. The blue solid was treated with NaOH 35% (200 mL) obtaining a violet suspension (pH 5) that was filtered and washed with NaOH 0.5 M (2 L) and H2O (2 L). The product was dried under vacuum (60° C.), to give 61.6 g of a pure violet solid. (67%).

reactant | 5-bromo-2-chlorobenzoic acid | 297.3 mmol, 70.0 g | BrC=1C=CC(=C(C(=O)O)C1)Cl | C7H4BrClO2
reactant | o-phenylenediamine | 594.6 mmol, 64.3 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | methansulfonic acid | 140 mL | CS(=O)(=O)O | CH4O3S
solvent | NaOH | 200 mL | [OH-].[Na+]
product | 2-(5-bromo-2-chlorophenyl)-1H-benzoimidazole | pH 5 | BrC=1C=CC(=C(C1)C1=NC2=C(N1)C=CC=C2)Cl | C13H8BrClN2
